US05025036
A mixture of 0.22 g of 2-hydroxy-5-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]benzoic acid and 30 mg of 10% palladium on carbon in 10 ml of methanol was stirred in a hydrogen atmosphere for 5 hours. Workup as in example 36 and recrystallization from acetone-hexane gave 0.10 g, mp 159°-161° of 2-hydroxy-5-[6-(2,3-dihydroxyphenyl)hexyloxy]benzoic acid.

reactant | 2-hydroxy-5-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]benzoic acid | 0.22 g | OC1=C(C(=O)O)C=C(C=C1)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C33H34O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | 2-hydroxy-5-[6-(2,3-dihydroxyphenyl)hexyloxy]benzoic acid | 0.10 g | OC1=C(C(=O)O)C=C(C=C1)OCCCCCCC1=C(C(=CC=C1)O)O | C19H22O6
